US07084154B2
A mixture of 3-(2-amino-ethyl)-1H-indol-5-ol hydrochloride (0.5 g), trifluoroacetaldehyde ethyl hemiacetal (0.35 mL), acetic acid (0.32 mL) and ethanol (22.5 mL) was heated at reflux for 16 h. The solvent and excess reagents were evaporated to dryness under vacuum. The residue was washed with diethyl ether to afford 1-trifluoromethyl-2,3,4,9-tetrahydro-1H-β-carbolin-6-ol hydrochloride (0.5 g).

reactant | 3-(2-amino-ethyl)-1H-indol-5-ol hydrochloride | 0.5 g | Cl.NCCC1=CNC2=CC=C(C=C12)O
reactant | trifluoroacetaldehyde ethyl hemiacetal | 0.35 mL | C(C)OC(C(F)(F)F)O | C4H7F3O2
reactant | acetic acid | 0.32 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 22.5 mL | C(C)O | C2H6O
product | 1-trifluoromethyl-2,3,4,9-tetrahydro-1H-β-carbolin-6-ol hydrochloride | 0.5 g | Cl.FC(C1NCCC=2C3=CC(=CC=C3NC12)O)(F)F | InChI=1S/C12H11F3N2O.ClH/c13-12(14,15)11-10-7(3-4-16-11)8-5-6(18)1-2-9(8)17-10;/h1-2,5,11,16-18H,3-4H2;1H
